### PR TITLE
[Merged by Bors] - chore: remove coercion attribute from `StarAlgEquiv.ofClass`

### PR DESCRIPTION
**Pull request by grunweg**
As discussed in #31365, this is the final step of fixing the morphism design for this class.

---

- [x] depends on: #43367
- [x] depends on: #43377

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Star/StarAlgHom.lean [hunk 1]
```diff
@@ -340,11 +333,12 @@ instance : StarHomClass (A →⋆ₐ[R] B) A B where
   map_star f := f.map_star'
 
 @[simp]
-protected theorem coe_coe {F : Type*} [FunLike F A B] [AlgHomClass F R A B]
-    [StarHomClass F A B] (f : F) :
-    ⇑(f : A →⋆ₐ[R] B) = f :=
+protected theorem coe_ofClass {F : Type*} [FunLike F A B] [AlgHomClass F R A B] [StarHomClass F A B]
+    (f : F) :  ⇑(ofClass f) = f :=
```
Comment (themathqueen) [inline Mathlib/Algebra/Star/StarAlgHom.lean]:
```suggestion
    (f : F) : ⇑(ofClass f) = f :=
```

File: Mathlib/Topology/Algebra/StarSubalgebra.lean [hunk 2]
```diff
@@ -172,10 +172,10 @@ theorem _root_.StarAlgHomClass.ext_topologicalClosure [T2Space B] {F : Type*}
     (hφ : Continuous φ) (hψ : Continuous ψ) (h : ∀ x : S,
         φ (inclusion (le_topologicalClosure S) x) = ψ ((inclusion (le_topologicalClosure S)) x)) :
     φ = ψ := by
-  have : (φ : S.topologicalClosure →⋆ₐ[R] B) = (ψ : S.topologicalClosure →⋆ₐ[R] B) := by
+  have : (.ofClass φ) = (.ofClass ψ : S.topologicalClosure →⋆ₐ[R] B) := by
```
Comment (themathqueen) [inline Mathlib/Topology/Algebra/StarSubalgebra.lean]:
```suggestion
  have : .ofClass φ = (.ofClass ψ : S.topologicalClosure →⋆ₐ[R] B) := by
```

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Instances.lean [hunk 3]
```diff
@@ -74,8 +73,9 @@ and so we may restrict it to `A` to get the necessary homomorphism for the non-u
 functional calculus.
 -/
 noncomputable def cfcₙAux : C(σₙ 𝕜 a, 𝕜)₀ →⋆ₙₐ[𝕜] A⁺¹ :=
-  (cfcHom (R := 𝕜) (hp₁.mpr ha) : C(σ 𝕜 (a : A⁺¹), 𝕜) →⋆ₙₐ[𝕜] A⁺¹) |>.comp
-    (Homeomorph.compStarAlgEquiv' 𝕜 𝕜 <| .setCongr <| (quasispectrum_eq_spectrum_inr' 𝕜 𝕜 a).symm)
+  ((cfcHom (R := 𝕜) (hp₁.mpr ha)).toNonUnitalStarAlgHom) |>.comp
```
Comment (themathqueen) [inline Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Instances.lean]:
```suggestion
  (cfcHom (R := 𝕜) (hp₁.mpr ha)).toNonUnitalStarAlgHom |>.comp
```

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/NonUnital.lean [hunk 4]
```diff
@@ -810,8 +810,7 @@ noncomputable def cfcₙHom_of_cfcHom [ContinuousFunctionalCalculus R A p] {a :
   let f : C(spectrum R a, quasispectrum R a) :=
     ⟨_, continuous_inclusion <| spectrum_subset_quasispectrum R a⟩
   let ψ := ContinuousMap.compStarAlgHom' R R f
-  (cfcHom ha (R := R) : C(spectrum R a, R) →⋆ₙₐ[R] A).comp <|
-    (ψ : C(σₙ R a, R) →⋆ₙₐ[R] C(spectrum R a, R)).comp e
+  ((cfcHom ha (R := R)).toNonUnitalStarAlgHom).comp <| (ψ.toNonUnitalStarAlgHom).comp e
```
Comment (themathqueen) [inline Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/NonUnital.lean]:
```suggestion
  (cfcHom ha (R := R)).toNonUnitalStarAlgHom.comp <| ψ.toNonUnitalStarAlgHom.comp e
```

File: Mathlib/Analysis/CStarAlgebra/GelfandDuality.lean [hunk 5]
```diff
@@ -372,8 +372,8 @@ B  --- η B ---> C(characterSpace ℂ B, ℂ)
 -/
 theorem gelfandStarTransform_naturality {A B : Type*} [CommCStarAlgebra A] [CommCStarAlgebra B]
     (φ : A →⋆ₐ[ℂ] B) :
-    (gelfandStarTransform B : _ →⋆ₐ[ℂ] _).comp φ =
-      (compContinuousMap φ |>.compStarAlgHom' ℂ ℂ).comp (gelfandStarTransform A : _ →⋆ₐ[ℂ] _) := by
+    ((gelfandStarTransform B).toStarAlgHom).comp φ =
```
Comment (themathqueen) [inline Mathlib/Analysis/CStarAlgebra/GelfandDuality.lean]:
```suggestion
    (gelfandStarTransform B).toStarAlgHom.comp φ =
```

**Review by themathqueen — COMMENTED** [review]
I think this is ready! Thanks!

maintainer delegate

File: Mathlib/Algebra/Star/NonUnitalSubalgebra.lean [hunk 6]
```diff
@@ -1176,7 +1176,7 @@ theorem comap_center_le_center [IsScalarTower R B B] [SMulCommClass R B B]
 
 @[simp]
 theorem map_center_eq [IsScalarTower R B B] [SMulCommClass R B B] (f : A ≃⋆ₐ[R] B) :
-    map f (center R A) = center R B :=
+    map (.ofClass f) (center R A) = center R B :=
```
Comment (j-loreaux) [inline Mathlib/Algebra/Star/NonUnitalSubalgebra.lean]:
```suggestion
    map f.toNonUnitalStarAlgHom (center R A) = center R B :=
```

File: Mathlib/Algebra/Star/Subalgebra.lean [hunk 7]
```diff
@@ -796,9 +796,10 @@ theorem ext_adjoin_singleton {a : A} [FunLike F (adjoin R ({a} : Set A)) B]
 
 variable [FunLike F A B] [AlgHomClass F R A B] [StarHomClass F A B] (f g : F)
 
+-- TODO: change this definition to take a concrete morphism instead
```
Comment (j-loreaux) [inline Mathlib/Algebra/Star/Subalgebra.lean]: Is this hard to do for some reason? If not, can we just do it now so we don't forget?

**Review by j-loreaux — COMMENTED** [review]
bors d+

File: Mathlib/Algebra/Algebra/Unitization.lean [hunk 8]
```diff
@@ -790,8 +790,8 @@ variable [Semiring C] [Algebra R C] [StarRing C]
 /-- See note [partially-applied ext lemmas] -/
 @[ext]
 theorem starAlgHom_ext {φ ψ : Unitization R A →⋆ₐ[R] C}
-    (h : (φ : Unitization R A →⋆ₙₐ[R] C).comp (Unitization.inrNonUnitalStarAlgHom R A) =
-      (ψ : Unitization R A →⋆ₙₐ[R] C).comp (Unitization.inrNonUnitalStarAlgHom R A)) :
+    (h : (NonUnitalStarAlgHom.ofClass φ).comp (Unitization.inrNonUnitalStarAlgHom R A) =
+      (NonUnitalStarAlgHom.ofClass ψ).comp (Unitization.inrNonUnitalStarAlgHom R A)) :
```
Comment (themathqueen) [inline Mathlib/Algebra/Algebra/Unitization.lean]: shouldn't these also be `.toNonUnitalStarAlgHom`?

File: Mathlib/Algebra/Star/NonUnitalSubalgebra.lean (hunk 6 above)
Comment (grunweg) [reply Mathlib/Algebra/Star/NonUnitalSubalgebra.lean]: Good catch, fixed!

File: Mathlib/Algebra/Star/Subalgebra.lean (hunk 7 above)
Comment (grunweg) [reply Mathlib/Algebra/Star/Subalgebra.lean]: Sure, I have made the change now. I believe I thought it hard, when I was less into this rabbit hole, but now it wasn't hard for me any more. I have left `ext_of_adjoin_eq_top` to take a morphism class.

File: Mathlib/Algebra/Algebra/Unitization.lean (hunk 8 above)
Comment (grunweg) [reply Mathlib/Algebra/Algebra/Unitization.lean]: Yes, they should! Changed... but fixing the proof was a bit painful. I wonder if there's a better way that's more automation-friendly. The last commit has just this change.

**Comment by grunweg** [comment]
Thanks for the review! I'll wait for CI in any case --- and also give you 24h to comment on [my last commit](https://github.com/leanprover-community/mathlib4/pull/43370/commits/47e7b83f7bbd3ef579cdcc41b09deaa85540dd68). The apparent loss of automation (or perhaps just me missing a trick here) worries me a bit; I'm interested in your opinion.

File: Mathlib/Algebra/Algebra/Unitization.lean [hunk 9]
```diff
@@ -790,10 +790,15 @@ variable [Semiring C] [Algebra R C] [StarRing C]
...
+    (h : φ.toNonUnitalStarAlgHom.comp (Unitization.inrNonUnitalStarAlgHom R A) =
+      ψ.toNonUnitalStarAlgHom.comp (Unitization.inrNonUnitalStarAlgHom R A)) :
     φ = ψ :=
-  Unitization.algHom_ext'' <| DFunLike.congr_fun h
+  Unitization.algHom_ext'' <| by
+    intro a
+    -- TODO: can automation be improved to handle this better?
+    rw [← inrNonUnitalStarAlgHom_apply,
+      ← StarAlgHom.coe_toNonUnitalStarAlgHom, ← StarAlgHom.coe_toNonUnitalStarAlgHom,
+      ← NonUnitalStarAlgHom.comp_apply, ← NonUnitalStarAlgHom.comp_apply, h]
```
Comment (themathqueen) [inline Mathlib/Algebra/Algebra/Unitization.lean]: the previous proof works just fine on my computer :eyes:
can you check again?

```suggestion
  Unitization.algHom_ext'' <| DFunLike.congr_fun h
```

Comment (grunweg) [reply Mathlib/Algebra/Algebra/Unitization.lean]: Huh, indeed. Oh well, I'll gladly take it :-)

**Comment by grunweg** [comment]
bors merge
